Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o G3P___ ___ ___ presents to triage with the complaint 
of abdominal pain and tightening. She denies dysuria, gross 
hematuria or urgency. She states that the pain is the same as 
she has been having but the tightening is new. She denies 
vaginal spotting or leaking. Active fetal movements.

Of note pt was admitted on ___ for nausea/vomiting and 
abdominal pain and discharged on ___.

 
Past Medical History:
PRENATAL COURSE
- ___ ___ by LMP (___) c/w 11wk U/S
- Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg 100%A
- LR quad
- FFS nl
- hx Chlamydia in ___ tri, pt/partner treated, neg test of 
re-infection (___)
- GERD/gastritis/freq abd pain
  - s/p admission ___,
    and ___
  - ___ neg  
  - ___ GI consult
  - ___ US: GB sludge, no cholecystitis or gallstones  
  - ___ abd/pelvis: no pathology  
  - ___ -> c/w severe gastritis; nl biopsies
- Psych: panic/anxiety/depression. seen by psychiatry during 
admissions, recommended klonopin (longer acting than ativan) and 
SSRI with Haldol PRN

OBHx: G3P0
-SAB x 2 requiring D&C

GynHx: denies history of abnormal paps or fibroids, + Chlamydia
(first trimester)

PMH: GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
BP135/73   HR 106  RR 16  temp 98.9 po
RRR
CTA B
ABD gravid, soft, tender throughout with light palpation ( pt
grimacing).
ext no edema

FHT 150 ___, pos accels, 2 var decels, mod var, reactive
TA U/S BPP ___, AFI 11.5, cephalic, placenta anterior, no 
previa,
fetal cardiac activity 176 by M mode.
Toco no contractions noted

 
Pertinent Results:
___ 09:38AM   WBC-12.9* RBC-3.12* HGB-9.3* HCT-26.9* MCV-86 
MCH-29.7 MCHC-34.5 RDW-13.8
___ 09:38AM   PLT COUNT-355
___ 09:38AM   ALT(SGPT)-15 AST(SGOT)-15 AMYLASE-40 TOT 
BILI-0.4
___ 09:38AM   URIC ACID-4.8
___ 09:39AM   ___ PTT-25.4 ___
___ 09:39AM   ___
 
Brief Hospital Course:
Ms. ___ was admitted to the antepartum service for 
supportive care of her gastritis.  She recevied anti-emetics and 
pain medications as needed and improved.  She had reassuring 
fetal testing and her blood pressures remained normal.
 
Medications on Admission:
Protonix,Compazine, Pepcid, Zofran, Ativan
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Promethazine 25 mg PO Q6H:PRN n/v 
3. Prochlorperazine 10 mg PO Q6H:PRN n/v 
4. Ondansetron 4 mg PO Q8H:PRN n/v 
RX *ondansetron 4 mg 1 tablet(s) by mouth every ___ hours Disp 
#*60 Tablet Refills:*0
5. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
6. Lorazepam 0.5 mg PO BID:PRN anxiety/pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the antepartum service for treatment of 
your gastritis.  You improved with medications and were able 
tolerate some food.  You had reassuring fetal testing and it is 
now safe for you to be discharged home.
 
Followup Instructions:
___